US07531672B2
Synthesis of 2,5-dimethyl-4,5-dihydrocyclopenta[b]thiophen-6-one
A solution of 100 g of 2-methylthiophene (1.02 mol) and 104 ml of methacrylic acid (1.22 mol) in 200 ml of dichloromethane was added dropwise within 30 minutes at 80° C. to 1000 g of super-PPA. Afterwards, the reaction mixture was stirred at 80° C. for 3 hours. The dark red mixture was poured into 1000 g of crushed ice and stirred until the polyphosphoric acid had completely dissolved. The aqueous phase was extracted twice with 400 ml each time of a dichloromethane/hexane solvent mixture (30 parts by volume/70 parts by volume). The combined organic phases were washed with a saturated aqueous solution of sodium hydrogencarbonate and dried over magnesium sulfate. After removal of the solvents on a rotary evaporator, 136 g of crude product were obtained. The distillation of the crude product (90° C., 0.1 torr) gave 76 g (46%) of product.

reactant | 2-methylthiophene | 1.02 mol, 100 g | CC=1SC=CC1 | C5H6S
reactant | methacrylic acid | 1.22 mol, 104 ml | C(C(=C)C)(=O)O | C4H6O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2,5-dimethyl-4,5-dihydrocyclopenta[b]thiophen-6-one | 76 g, 46% | CC1=CC2=C(S1)C(C(C2)C)=O | C9H10OS
